### PR TITLE
[Merged by Bors] - chore(Topology/Separation): rename type variables

### PR DESCRIPTION
**Pull request by grunweg**
This file was using a mix of Greek letters and standard math convention (X, Y, Z).
`connectedComponent_eq_iInter_clopen` was even using `X` in comments and $\alpha$ in the code.

As [discussed](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Naming.20convention.3A.20topological.20spaces/near/395769893) on zulip, standardize on the latter.

### CODE REVIEW

**Comment by eric-wieser** [comment]
Please make sure to put your description above the `---`, otherwise it will be thrown away and not put in the commit message.

The space below the `---` should be left for information that is only interesting before the PR is merged (such as "I need help" or "I'm waiting on this PR" or "Reviewers, what do you think of [alternate design]?"

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -171,99 +171,99 @@ end SeparatedNhds
...
-    T0Space α ↔ ∀ x y : α, Inseparable x y → x = y :=
+theorem t0Space_iff_inseparable (X : Type u) [TopologicalSpace X] :
+    T0Space X ↔ ∀ x y : X, Inseparable x y → x = y :=
   ⟨fun ⟨h⟩ => h, fun h => ⟨h⟩⟩
 #align t0_space_iff_inseparable t0Space_iff_inseparable
 
-theorem t0Space_iff_not_inseparable (α : Type u) [TopologicalSpace α] :
-    T0Space α ↔ ∀ x y : α, x ≠ y → ¬Inseparable x y := by
+theorem t0Space_iff_not_inseparable (X : Type u) [TopologicalSpace X] :
+    T0Space X ↔ ∀ x y : X, x ≠ y → ¬Inseparable x y := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Separation.lean:185]: The downside of this new naming is that `x y : X` breaks symmetry in a way that `x y : α` does not; are there any lemmas in this file with both `y : X` and `z : Y` or similar?

File: Mathlib/Topology/Separation.lean [hunk 2]
```diff
@@ -1212,32 +1208,32 @@ instance Sigma.t2Space {ι} {α : ι → Type*} [∀ i, TopologicalSpace (α i)]
...
-    IsClosed { x : β | f x = g x } :=
+theorem isClosed_eq [T2Space X] {f g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+    IsClosed { x : Y | f x = g x } :=
   continuous_iff_isClosed.mp (hf.prod_mk hg) _ isClosed_diagonal
 #align is_closed_eq isClosed_eq
 
-theorem isOpen_ne_fun [T2Space α] {f g : β → α} (hf : Continuous f) (hg : Continuous g) :
-    IsOpen { x : β | f x ≠ g x } :=
+theorem isOpen_ne_fun [T2Space X] {f g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+    IsOpen { x : Y | f x ≠ g x } :=
```
Comment (eric-wieser) [inline Mathlib/Topology/Separation.lean:1219]: `x : Y` is a bit odd here!

File: Mathlib/Topology/Separation.lean [hunk 3]
```diff
@@ -1212,32 +1208,32 @@ instance Sigma.t2Space {ι} {α : ι → Type*} [∀ i, TopologicalSpace (α i)]
...
 /-- If two continuous functions are equal on a dense set, then they are equal. -/
-theorem Continuous.ext_on [T2Space α] {s : Set β} (hs : Dense s) {f g : β → α} (hf : Continuous f)
+theorem Continuous.ext_on [T2Space X] {s : Set Y} (hs : Dense s) {f g : Y → X} (hf : Continuous f)
     (hg : Continuous g) (h : EqOn f g s) : f = g :=
   funext fun x => h.closure hf hg (hs x)
 #align continuous.ext_on Continuous.ext_on
 
-theorem eqOn_closure₂' [T2Space α] {s : Set β} {t : Set γ} {f g : β → γ → α}
+theorem eqOn_closure₂' [T2Space X] {s : Set Y} {t : Set Z} {f g : Y → Z → X}
     (h : ∀ x ∈ s, ∀ y ∈ t, f x y = g x y) (hf₁ : ∀ x, Continuous (f x))
```
Comment (eric-wieser) [inline Mathlib/Topology/Separation.lean:1237]: Here we now have `x : Y` and `y : Z` which is very confusing!

File: Mathlib/Topology/Separation.lean [hunk 4]
```diff
@@ -1922,29 +1918,29 @@ end CompletelyNormal
 
 /-- In a compact t2 space, the connected component of a point equals the intersection of all
 its clopen neighbourhoods. -/
-theorem connectedComponent_eq_iInter_clopen [T2Space α] [CompactSpace α] (x : α) :
-    connectedComponent x = ⋂ Z : { Z : Set α // IsClopen Z ∧ x ∈ Z }, Z := by
+theorem connectedComponent_eq_iInter_clopen [T2Space X] [CompactSpace X] (x : X) :
+    connectedComponent x = ⋂ Z : { Z : Set X // IsClopen Z ∧ x ∈ Z }, Z := by
```
Comment (eric-wieser) [inline Mathlib/Topology/Separation.lean:1922]: Here things are perhaps worse because `X` looks like `Z` but one is the topogical space and the other is a subtype of sets.

File: Mathlib/Topology/Separation.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Topology/Separation.lean:1237]: Agreed, fixed.

File: Mathlib/Topology/Separation.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Topology/Separation.lean:185]: I checked and fixed all cases. (All cases of y : X are in the context `x y : X`. While this is asymetric, these names are common in math literature; may I call scope creep on *this*?)

File: Mathlib/Topology/Separation.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Topology/Separation.lean:1922]: I agree this is not the best notation. (I've seen such in mathematical textbooks, though.)
Better names welcome. `s` instead of `Z`?

Comment (grunweg) [reply Mathlib/Topology/Separation.lean]: Pushed a commit using `s` instead.

**Comment by eric-wieser** [comment]
Note my comments above are far from exhaustive: I just looked for a few examples that were particularly messy. It's certainly not a requirement that you catch all of them, but you're making a tradeoff here between "Greek letters are weird" and "some variables have actually misleading names", and you need to ensure it's not so many that the change is a net downgrade.

**Comment by grunweg** [comment]
I hear your concern and agree this is important. I've checked all of the following to catch as many instances as possible. (This covers all instances you pointed out, and also the comments in #7587.)

- before renaming: audit misleading type names: are X, Y, Z used as variables elsewhere? If so, rename those or convince myself it's fine.
- did I catch all type variables?
   - search for `Type ` and `Type*`; audit all results
   - types $\iota, \pi$ for indexing is fine
   - use X_i, Y_i etc. for a collection of topological spaces
- rename all occurrences; this ensure documentation is also updated

- generalising universes: try generalising a `Type u` to `Type*` (revert if the build fails)
(Do this in a separate commit, so this can be dropped if needed.)
- Re-use variables if universes match: in theorems only; leave definitions, classes, structures and instances alone.
(If names were mixed before, renaming may allow to unify things.)

- misleading variable names: all of x : Y, x : Z, y : X, y : Z.
Often, I can audit all occurrences of `z`, `Z` or even `y` and `Y` (even in proofs).
- now-suboptimal variable names: a : X etc. (Perhaps, I can even audit all uses of the variable a.)

File: Mathlib/Topology/Separation.lean [hunk 5]
```diff
@@ -945,181 +943,181 @@ theorem isOpen_setOf_disjoint_nhds_nhds : IsOpen { p : α × α | Disjoint (𝓝
...
 
-theorem lim_eq {a : α} [NeBot f] (h : f ≤ 𝓝 a) : @lim _ _ ⟨a⟩ f = a :=
-  tendsto_nhds_unique (le_nhds_lim ⟨a, h⟩) h
+theorem lim_eq {x : X} [NeBot f] (h : f ≤ 𝓝 x) : @lim _ _ ⟨x⟩ f = x :=
+  tendsto_nhds_unique (le_nhds_lim ⟨x, h⟩) h
 set_option linter.uppercaseLean3 false in
 #align Lim_eq lim_eq
 
-theorem lim_eq_iff [NeBot f] (h : ∃ a : α, f ≤ nhds a) {a} : @lim _ _ ⟨a⟩ f = a ↔ f ≤ 𝓝 a :=
+theorem lim_eq_iff [NeBot f] (h : ∃ x : X, f ≤ nhds x) {x} : @lim _ _ ⟨x⟩ f = x ↔ f ≤ 𝓝 x :=
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1065]:
```suggestion
theorem lim_eq_iff [NeBot f] (h : ∃ x : X, f ≤ 𝓝 x) {x} : @lim _ _ ⟨x⟩ f = x ↔ f ≤ 𝓝 x :=
```

File: Mathlib/Topology/Separation.lean [hunk 6]
```diff
@@ -1514,11 +1511,11 @@ class RegularSpace (X : Type u) [TopologicalSpace X] : Prop where
 
 theorem regularSpace_TFAE (X : Type u) [ TopologicalSpace X ] :
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1512]:
```suggestion
theorem regularSpace_TFAE (X : Type u) [TopologicalSpace X] :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by grunweg** [comment]
Thank you for the review. I have addressed both nits (as well as another analogous case in this file.)
bors r+
